US04665188
3.92 g of ethyl 6-(5-thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was added to a mixture of 10 ml of a 10 % aqueous solution of sodium hydroxide and 30 ml of methanol and the mixture was heated under reflux for 1 hour. The reaction mixture was concentrated to dryness in vacuo and the residue was dissolved in water. A small amount of insoluble material was removed by filtration and the filtrate was adjusted to pH 6 with hydrochloric acid. The precipitate formed was collected by filtration to give 2.71 g of 6-(5thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid as a powder. The powder was suspended in 20 ml of water and 0.42 g of sodium hydroxide was added thereto. The insoluble material was removed by filtration and the filtrate was concentrated in vacuo. The residue was recrystallized from a mixture of ethanol and diethyl ether to give 1.92 g of sodium carboxylate of the above product as a colorless powder with m.p. above 280° C.

reactant | ethyl 6-(5-thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 3.92 g | S1C=NC=C1CC1CC=2C=CC(=CC2CC1)C(=O)OCC | C17H19NO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-(5thiazolylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid | 2.71 g | S1C=NC=C1CC1CC=2C=CC(=CC2CC1)C(=O)O | C15H15NO2S
